US08664401B2
Step C) (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(tetrahydro-2H-pyran-4-yl)phenyl]pyridin-1(2H)-yl}butanamide
To a solution of (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(tetrahydro-2H-pyran-4-yl)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide (82 mg, 0.15 mmol) in 2-propanol (1.5 mL) was added 1.0 N hydrochloric acid (0.77 mL). The solution was stirred for 1 h. The reaction was concentrated, the residue was triturated with 2-propanol as a white suspension at 50° C. for 30 minutes. A white solid was collected by filtration (75%). LCMS m/z 449.0 (M+1). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.57 (s, 3H) 1.65-1.74 (m, 4H) 2.11-2.21 (m, 1H) 2.37-2.47 (m, 1H) 2.83 (tt, J=10.40, 5.42 Hz, 1H) 3.11 (s, 3H) 3.39-3.49 (m, 2H) 3.74 (td, J=12.01, 4.69 Hz, 1H) 3.92-3.99 (m, 2H) 4.11 (td, J=11.91, 5.08 Hz, 1H) 6.65 (dd, J=7.03, 2.15 Hz, 1H) 6.69 (d, J=2.15 Hz, 1H) 7.37 (m, 2H) 7.67 (m, 2H) 7.74 (d, J=7.23 Hz, 1H) 9.27 (br. s., 1H) 11.19 (s, 1H).

reactant | (2R)-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(tetrahydro-2H-pyran-4-yl)phenyl]pyridin-1(2H)-yl}-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 0.15 mmol, 82 mg | C[C@](C(=O)NOC1OCCCC1)(CCN1C(C=C(C=C1)C1=CC=C(C=C1)C1CCOCC1)=O)S(=O)(=O)C | C27H36N2O7S
reactant | hydrochloric acid | 1.0 N, 0.77 mL | Cl | ClH
solvent | 2-propanol | 1.5 mL | CC(C)O | C3H8O
product | (2R)—N-hydroxy-2-methyl-2-(methylsulfonyl)-4-{2-oxo-4-[4-(tetrahydro-2H-pyran-4-yl)phenyl]pyridin-1(2H)-yl}butanamide | ONC([C@@](CCN1C(C=C(C=C1)C1=CC=C(C=C1)C1CCOCC1)=O)(S(=O)(=O)C)C)=O | C22H28N2O6S
